US05136081
10 g (0.04 mole) of 2-(4-chlorobenzylidene)-5,5-dimethycyclohexanone prepared according to Example 1(a) were dissolved in 50 ml dichloromethane and cooled to 5-10° C. Bromine (6.4 g, 0.04 mole) was added over 5 minutes to give 2-bromo-2-(α-bromo-4-chlorobenzyl-5,5-dimethylcyclohexanone in solution.

reactant | 2-(4-chlorobenzylidene)-5,5-dimethycyclohexanone | 0.04 mole, 10 g | ClC1=CC=C(C=C2C(CC(CC2)(C)C)=O)C=C1 | C15H17ClO
reactant | Bromine | 0.04 mole, 6.4 g | BrBr | Br2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | α-bromo-4-chlorobenzyl-5,5-dimethylcyclohexanone | BrC(C1=CC=C(C=C1)Cl)C1C(CC(CC1)(C)C)=O | C15H18BrClO
